US07977340B2
Step 3. 1-Benzoyl-3-(3,5-dibromo-phenyl)-thiourea
To the solution of 3,5-dibromoaniline (65.0 g, 0.26 mol) in anhydrous acetone (1.6 L) was added benzoylisothiocyanate (46.4 g, 0.28 mol) and the reaction mixture was stirred at room temperature for 30 min. Acetone was distilled off and the crude residue was washed with hexane to obtain desired compound as yellow solid (96.5 g, 90%).

reactant | 3,5-dibromoaniline | 0.26 mol, 65.0 g | BrC=1C=C(N)C=C(C1)Br | C6H5Br2N
reactant | benzoylisothiocyanate | 0.28 mol, 46.4 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 1.6 L | CC(=O)C | C3H6O
product | 1-Benzoyl-3-(3,5-dibromo-phenyl)-thiourea | 96.5 g, 90% | C(C1=CC=CC=C1)(=O)NC(=S)NC1=CC(=CC(=C1)Br)Br | C14H10Br2N2OS
